US07045519B2
A suspension of (2-aminoethyl)(5-nitro(2-pyridyl))amine (255 mg, 1.40 mmol) in N,N-dimethylacetamide (3 ml) containing dry powdered 4 Å molecular sieves (50 mg) was added to a suspension of 6-(2,4-dichlorophenyl)-5-{1-[(trifluoromethyl)sulfonyl]imidazol-2-yl}-2-pyridyl (trifluoromethyl)sulfonate (200 mg, 0.35 mmol) in N,N-dimethylacetamide (3 ml) containing dry powdered 4 Å molecular sieves (50 mg). After stirring at 40° C. for 24 h, ethylenediamine (0.5 ml) and water (0.5 ml) were added to the reaction to hydrolyze the one remaining triflate from the product. The reaction was stirred at 85° C. for 2 h and left at room temperature for 12 h. The reaction was then diluted with ethyl acetate (100 ml), filtered, extracted with sat. aq. NaHCO3 (6×30 ml), brine (30 ml), dried with Na2SO4, filtered, and concentrated under reduced pressure. The product [6-(2,4-dichlorophenyl)-5-imidazol-2-yl(2-pyridyl)]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine (79859) was obtained as a yellow glass weighing 143 mg in 85% yield.

reactant | (2-aminoethyl)(5-nitro(2-pyridyl))amine | 1.40 mmol, 255 mg | NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C7H10N4O2
reactant | 6-(2,4-dichlorophenyl)-5-{1-[(trifluoromethyl)sulfonyl]imidazol-2-yl}-2-pyridyl (trifluoromethyl)sulfonate | 0.35 mmol, 200 mg | FC(F)(F)S(=O)(=O)OC1=NC(=C(C=C1)C=1N(C=CN1)S(=O)(=O)C(F)(F)F)C1=C(C=C(C=C1)Cl)Cl | C16H7Cl2F6N3O5S2
solvent | N,N-dimethylacetamide | 3 ml | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 3 ml | CN(C(C)=O)C | C4H9NO
product | [6-(2,4-dichlorophenyl)-5-imidazol-2-yl(2-pyridyl)]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine | 85% yield | ClC1=C(C=CC(=C1)Cl)C1=C(C=CC(=N1)NCCNC1=NC=C(C=C1)[N+](=O)[O-])C=1NC=CN1 | C21H17Cl2N7O2
